US06369076B1
A mixture of 0.74 g of 3-(5-benzyl-2-oxo-cyclohexyl)-propionic acid ethyl ester, 0.572 g of 2-aminomethylbenzimidazole dihydrochloride, 10 mL of 1,2-dichloroethane, 0.40 g of sodium acetate and 0.74 g of sodium triacetoxyborohydride was stirred at room temperature for 48 h. The reaction mixture was diluted with 100 mL chloroform and 40 mL saturated aqueous Na2CO3 and the layers separated. The aqueous layer was extracted with 2×25 mL of chloroform and the combined organic layers dried over magnesium sulfate and concentrated under reduced pressure. Purification by chromatography eluting with a gradient of ethyl acetate to 10% methanol in ethyl acetate gave 0.15 g of 1-(1H-benzimidazol-2-ylmethyl)-6-benzyl-octahydro-quinolin-2-one.

reactant | 3-(5-benzyl-2-oxo-cyclohexyl)-propionic acid ethyl ester | 0.74 g | C(C)OC(CCC1C(CCC(C1)CC1=CC=CC=C1)=O)=O | C18H24O3
reactant | 2-aminomethylbenzimidazole dihydrochloride | 0.572 g | Cl.Cl.NCC=1NC2=C(N1)C=CC=C2
reactant | sodium acetate | 0.40 g | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 0.74 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Na2CO3 | 40 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 1-(1H-benzimidazol-2-ylmethyl)-6-benzyl-octahydro-quinolin-2-one | 0.15 g | N1C(=NC2=C1C=CC=C2)CN2C(CCC1CC(CCC21)CC2=CC=CC=C2)=O | C24H27N3O
